US04272525
N,N'-bis-trifluoroacetyl-L-lysine is treated with N-hydroxysuccinimide according to Example 2A to obtain N,N'-bis-trifluoroacetyl-L-lysyloxy succinimide; [α]D26 -31.4° (EtOH); νmax (KBr) 1810, 1790, 1740, 1700 cm-1. This product (473 mg) is added under nitrogen to amphotericin B (500 mg) in 5 ml of a 9:1 dimethylsulfoxide:methanol mixture. After 3.5 hours, 6 ml of methanol is added and the mixture is added dropwise to excess ether. A fine, yellow precipitate is allowed to settle with cooling overnight. Filtration, washing with ether and drying gives the named compound: [α]D26 +263.2 (dimethylsulfoxide); νmax (KBr) 1710 cm-1.

reactant | N,N'-bis-trifluoroacetyl-L-lysine | FC(C(=O)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)O)(F)F | C10H12F6N2O4
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | N,N'-bis-trifluoroacetyl-L-lysyloxy succinimide | FC(C(=O)N[C@@H](CCCCNC(C(F)(F)F)=O)C(=O)OC1C(=O)NC(C1)=O)(F)F | C14H15F6N3O6
